US07612075B2
1-(2-Aminoquinolin-6-ylmethyl)-4-(5′-chloro-[2,2′]bithiophenyl-5-sulfonyl)piperazin-2-one
The title compound is prepared as described in Example 101 using 1-(2-aminoquinolin-6-ylmethyl)piperazin-2-one, EXAMPLE 67, and 5′-chloro-[2,2′]bithiophenyl-5-sulfonyl chloride, EXAMPLE 2. The crude product is triturated in CH2Cl2 and filtered to provide the title compound as a white solid. 1H NMR (d6-DMSO, 300 MHz) δ7.82 (d, 1H), 7.68 (d, 1H), 7.42 (m, 3H), 7.36 (d, 1H), 7.25 (d, 1H), 7.20 (d, 1H), 6.70 (d, 1H), 6.43 (bs, 2H), 4.53 (s, 2H), 3.78 (s, 2H), 3.31 (m, 4H). MS (ion spray) m/z 519, 521, (M+H), Cl pattern.

reactant | 1-(2-aminoquinolin-6-ylmethyl)piperazin-2-one | NC1=NC2=CC=C(C=C2C=C1)CN1C(CNCC1)=O | C14H16N4O
reactant | 5′-chloro-[2,2′]bithiophenyl-5-sulfonyl chloride | ClC1=CC=C(S1)C=1SC(=CC1)S(=O)(=O)Cl | C8H4Cl2O2S3
product | 1-(2-Aminoquinolin-6-ylmethyl)-4-(5′-chloro-[2,2′]bithiophenyl-5-sulfonyl)piperazin-2-one | NC1=NC2=CC=C(C=C2C=C1)CN1C(CN(CC1)S(=O)(=O)C1=CC=C(S1)C=1SC(=CC1)Cl)=O | C22H19ClN4O3S3
